US08802697B2
Synthesis of N1-(5-((2,6-dichloro-3,5-dimethoxyphenyl)ethynyl)pyrimidin-2-yl)-6-methylbenzene-1,2-diamine
A mixture of 5-((2,6-dichloro-3,5-dimethoxyphenyl)ethynyl)-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine (150 mg, 0.33 mmol), Iron (147 mg, 2.64 mmol) and ammonium chloride (214 mg, 3.96 mmol) in ethanol (20 mL) and water (2 mL) was stirred at 85° C. for 1 h. LCMS showed the reaction was completed. The reaction was cooled to RT, and the solid was filtered off. The filtrate was concentrated, and the residue was purified by Prep-HPLC to afford the title compound as a white solid (58 mg, 35%). MS (ES+) C21H18Cl2N4O2 requires: 429, 431. found: 430, 432 [M+H]+. 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.90 (s, 1H), 8.55-8.44 (br, 2H), 6.97 (s, 1H), 6.89-6.86 (m, 1H), 6.57 (d, 1H, J=7.6 Hz), 6.44 (d, 1H, J=7.6 Hz), 4.75 (s, 2H), 3.94 (s, 6H), 2.01 (s, 3H).

reactant | 5-((2,6-dichloro-3,5-dimethoxyphenyl)ethynyl)-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine | 0.33 mmol, 150 mg | ClC1=C(C(=C(C=C1OC)OC)Cl)C#CC=1C=NC(=NC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C21H16Cl2N4O4
reactant | ammonium chloride | 3.96 mmol, 214 mg | [Cl-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
catalyst | Iron | 2.64 mmol, 147 mg | [Fe] | Fe
product | N1-(5-((2,6-dichloro-3,5-dimethoxyphenyl)ethynyl)pyrimidin-2-yl)-6-methylbenzene-1,2-diamine | 58 mg, 35% | ClC1=C(C(=C(C=C1OC)OC)Cl)C#CC=1C=NC(=NC1)NC=1C(=CC=CC1C)N | C21H18Cl2N4O2
